US05565554
2,3,3-Trimethyl indolenine, methylbenzothiazole, iodomethane, and diidopropane were purchased from Aldrich and used without further purification. Malonaldehyde dianil was synthesized according to literature reports (Glauert, R. H. and Mann, F. G. J. Chem. Soc. (1952) 5012, by the method of Claisen Ber. (1903) 36, 3668). Dry nitrobenzene was freshly distilled from CaH2. Dry triethylamine was distilled from Na°. DMF was predried with MgSO4, fractionally distilled and stored over molecular sieves. All dry solvents were stored under N2. All reactions were run under anhydrous conditions under N2. Reactions were monitored by TLC (silica gel 60, A260, Fisher) and visualized with short and long wavelength UV irradiation. Flash column chromatography was performed on silica gel 60 (200-440 mesh Fluka).

reactant | 2,3,3-Trimethyl indolenine | CC1=NC2=CC=CC=C2C1(C)C | C11H13N
reactant | methylbenzothiazole | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | iodomethane | IC | CH3I
product | Malonaldehyde dianil | C1=CC=C(C=C1)N=CCC=NC2=CC=CC=C2 | C15H14N2
